US06169083A
Sodium hydroxide (3.51 g) was dissolved in methanol (100 ml), and L-carnosine (9.96 g) was added to the solution to prepare a uniform solution. A solution with zinc acetate dihydrate (9.67 g) dissolved in methanol (145 ml) was added dropwise over 30 minutes to the uniform solution. As a result, white precipitate was gradually formed. After completion of the addition, the mixture was stirred for 2 hours, left to stand overnight and then filtered. The resultant filter cake was then washed with water (140 ml) and air-dried at 80° C. for 5 hours to obtain a crystalline L-carnosine zinc salt (12.4 g) as white powdery crystals.

reactant | Sodium hydroxide | 3.51 g | [OH-].[Na+]
reactant | L-carnosine | 9.96 g | C1=C(NC=N1)C[C@@H](C(=O)O)NC(=O)CCN | C9H14N4O3
reactant | zinc acetate dihydrate | 9.67 g | O.O.C(C)(=O)[O-].[Zn+2].C(C)(=O)[O-]
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 145 ml | CO | CH4O
product | L-carnosine zinc | 12.4 g | C1=C(NC=N1)C[C@@H](C(=O)O)NC(=O)CCN.[Zn] | InChI=1S/C9H14N4O3.Zn/c10-2-1-8(14)13-7(9(15)16)3-6-4-11-5-12-6;/h4-5,7H,1-3,10H2,(H,11,12)(H,13,14)(H,15,16);/t7-;/m0./s1
